US06706663B2
Preparation of 5-Amino-3-(1-methylpyrrol-2-yl)-1,2-benzisothiazole
To a mixture of 3-(1-methylpyrrol-2-yl)-5-nitro-1,2-benzisothiazole(1.5 g, 5.79 mmol), ethyl acetate and ethanol is added tin(II) chloride dihydrate (6.5 g, 28.8 mmol). The resultant mixture is heated to reflux, stirred 30 min at reflux and cooled to room temperature. The mixture is diluted with ethyl acetate and slowly quenched with solid sodium bicarbonate and water. Brine is added and the resultant mixture stirred and allowed to stand until layer separation is complete. The organic layer is saved and the aqueous layer is extracted with ethyl acetate. The solids which form in the aqueous layer are triturated with ethyl acetate, filtered and the filtrate combined with the above organic layers. The combined organic layers are washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to afford the title compound as a brown oil (1.10 g, 84.6%) identified by NMR spectral analysis.

reactant | 3-(1-methylpyrrol-2-yl)-5-nitro-1,2-benzisothiazole | 5.79 mmol, 1.5 g | CN1C(=CC=C1)C1=NSC2=C1C=C(C=C2)[N+](=O)[O-] | C12H9N3O2S
reactant | ethanol | C(C)O | C2H6O
reactant | tin(II) chloride dihydrate | 28.8 mmol, 6.5 g | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Amino-3-(1-methylpyrrol-2-yl)-1,2-benzisothiazole | 1.10 g, 84.6% | NC=1C=CC2=C(C(=NS2)C=2N(C=CC2)C)C1 | C12H11N3S
